US05051524
A suspension of 1.23 g 3-aminopropylphosphonous acid in 25 ml of hexamethyldisilazane is heated to reflux under an inert gas for 20 hours. After this time a clear solution results and the reaction mixture is cooled to room temperature under inert gas and 50 ml of anhydrous acetone is added and an exothermic reaction results. The reaction mixture is allowed to cool to room temperature and the volatile components removed invacuo to afford a clear oil. This oil is dissolved in 50 ml of a 2.0M hydrochloric acid solution in water and washed with 2×100 ml of dichloromethane and 1×100 ml of ether. The aqueous layer is evaporated to dryness to give a semi-solid residue which is co-evaporated with water (10×20 ml) and absolute ethanol (10×20 ml) yielding3-aminopropyl(2-hydroxyprop-2-y)phosphinic acid hydrochloride m.p. 159°-161° as a white solid. This is suspended in absolute ethanol and treated with propylene oxide. Filtration and drying of the solid affords 3-aminopropyl(2-hydroxyprop-2 -yl)phosphinic acid; m.p. 243°-244°.

reactant | 3-aminopropylphosphonous acid | 1.23 g | NCCCP(O)O | C3H10NO2P
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | hexamethyldisilazane | 25 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | hydrochloric acid | 2.0M | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 3-aminopropyl(2-hydroxyprop-2 -yl)phosphinic acid | NCCCP(O)(=O)C(C)(C)O | C6H16NO3P
